US07319104B2
[3-(3-{(5-Isopropylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}propyl)phenoxy]acetic acid
Similarly prepared by alkylation of 3-(3-{(5-isopropylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}propyl)phenol with tert-butyl-bromo-acetate followed by standard TFA hydrolysis.

reactant | 3-(3-{(5-isopropylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}propyl)phenol | C(C)(C)C=1C=CC(=NC1)N(CCCC=1C=C(C=CC1)O)CC1=CC=C(C=C1)OC(F)(F)F | C25H27F3N2O2
reactant | tert-butyl-bromo-acetate | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | [3-(3-{(5-Isopropylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}propyl)phenoxy]acetic acid | C(C)(C)C=1C=CC(=NC1)N(CCCC=1C=C(OCC(=O)O)C=CC1)CC1=CC=C(C=C1)OC(F)(F)F | C27H29F3N2O4
